US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-trimethylsilanyl-ethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-trimethylsilylethanol according to the procedure of Example 30 as a white foam (HCl salt); 1H NMR (CDCl3) δ 0.03 (s, 18H), 1.06 (t, J=8.6 Hz, 4H), 1.33 (bs, 3H), 1.90 (bs, 1H), 2.80 (bs, 1H), 3.18 (bs, 2H), 3.48 (bs, 2H), 4.37 (t, J=8.6 Hz, 4 H), 5.45 (bs, 1H), 6.80 (m, 3H), 7.26 (m, 2H), 7.43 (s, 1H), 8.70 (bs, 1H), 10.10 (bs, 1H); IR (KBr): 1763 cm-1 (C=O); MS (ES) m/z 622 (MH+); [α]D25 -23° (c, 1.0, CHCl3). Anal. Calcd. for C30H44ClNO7Si2 ·HCl: C, 54.70; H, 6.88; N, 2.13; Cl, 10.76; Si, 8.53. Found: C, 53.96; H, 7.05; N, 1.86; Cl, 8.84; Si, 10.33.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-trimethylsilylethanol | C[Si](CCO)(C)C | C5H14OSi
reactant | HCl | Cl | ClH
reactant | KBr | [K+].[Br-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-trimethylsilanyl-ethyl) ester | C[Si](CCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC[Si](C)(C)C)(C)C | C30H44ClNO7Si2
